US08309718B2
4-(4-(1-(3-cyano-1-(cyanomethyl)cyclobutyl)-1H-pyrazol-4-yl)pyrimidin-2-ylamino)benzoic Acid
A mixture of 3-(4-(2-chloropyrimidin-4-yl)-1H-pyrazol-1-yl)-3-(cyanomethyl)-cyclobutanecarbonitrile (300 mg, 0.00100 mol), p-aminobenzoic acid (206 mg, 0.00151 mol), and p-toluenesulfonic acid (150 mg, 0.00085 mol) in dry 1,4-dioxane (8 mL) was refluxed overnight, cooled to room temperature. The solid was filtered and collected to give the titled compound as a cis- and trans-isomer mixture, which was used directly in next step (310 mg, 77.3%). LCMS (M+H) 400.4.

reactant | 3-(4-(2-chloropyrimidin-4-yl)-1H-pyrazol-1-yl)-3-(cyanomethyl)-cyclobutanecarbonitrile | 0.00100 mol, 300 mg | ClC1=NC=CC(=N1)C=1C=NN(C1)C1(CC(C1)C#N)CC#N | C14H11ClN6
reactant | p-aminobenzoic acid | 0.00151 mol, 206 mg | NC1=CC=C(C(=O)O)C=C1 | C7H7NO2
reactant | p-toluenesulfonic acid | 0.00085 mol, 150 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | 1,4-dioxane | 8 mL | O1CCOCC1 | C4H8O2
product | 4-(4-(1-(3-cyano-1-(cyanomethyl)cyclobutyl)-1H-pyrazol-4-yl)pyrimidin-2-ylamino)benzoic Acid | C(#N)C1CC(C1)(CC#N)N1N=CC(=C1)C1=NC(=NC=C1)NC1=CC=C(C(=O)O)C=C1 | C21H17N7O2
